US05608056
To a solution of (2S,4R)-1-allyloxycarbonyl-2-(2-oxo-piperazin-1-yl) methyl-4-(methanesulfonyloxy)pyrrolidine (6.37 g) in dichloromethane (60 ml) were added N,N-diisopropyl-N-ethylamine (3.38 ml) and methyl iodide (1.64 ml) under ice cooling with stirring, and the mixture was allowed to stay in a refrigeration for 12 hours. The mixture was evaporated in vacuo. The residue was purified by silica gel column chromatography eluting with a mixture of ethyl acetate, methanol and isopropylamine (10:1:0.3 v/v/v) to give (2S,4R)-1-allyloxycarbonyl-2-(2-oxo-4-methylpiperazin-1-yl) methyl-4-(methanesulfonyloxy)pyrrolidine (3.19 g).

reactant | (2S,4R)-1-allyloxycarbonyl-2-(2-oxo-piperazin-1-yl) methyl-4-(methanesulfonyloxy)pyrrolidine | 6.37 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)CN1C(CNCC1)=O | C14H23N3O6S
reactant | N,N-diisopropyl-N-ethylamine | 3.38 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methyl iodide | 1.64 ml | CI | CH3I
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | (2S,4R)-1-allyloxycarbonyl-2-(2-oxo-4-methylpiperazin-1-yl) methyl-4-(methanesulfonyloxy)pyrrolidine | 3.19 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)CN1C(CN(CC1)C)=O | C15H25N3O6S
